US09193720B2
To a solution of 4-benzylpiperidine (0.80 g, 4.56 mmol) and DIEA (2.4 mL, 13.7 mmol) in anhydrous CH3CN (30 mL) was added isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate (1.7 g, 4.56 mmol) at rt. The resulting mixture was placed in a pre-heated oil bath (80° C.) and stirred for 18 h; cooled, diluted with ether, washed with water, brine, and dried (MgSO4). The crude product was charged (DCM) to a 80 g ISCO silica gel cartridge and gradient eluted (0-25% EtOAc/hexanes) using an Isolera chromatography station gave isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-bromo-2,6-dimethylpyridin-3-yl)-2-oxoacetate 1.48 g (68%). 1H NMR (500 MHz, DMSO-d6) δ 7.3-7.27 (m, 2H), 7.20-7.15 (m, 3H), 5.09-5.04 (m, 1H), 3.23 (br. s, 2H), 2.84 (br. s, 2H), 2.59 (s, 3H), 2.51-2.49 (m, 2H), 2.28 (s, 3H), 1.61 (br. s, 1), 1.55 (d, J=13.6 Hz, 2H), 1.30 (d, J=6.2 Hz, 6H), 1.14 (br. s, 2H). UPLC (M+H)=475.2.

reactant | 4-benzylpiperidine | 4.56 mmol, 0.80 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | DIEA | 13.7 mmol, 2.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl 2-(5-bromo-4-chloro-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 4.56 mmol, 1.7 g | BrC=1C(=C(C(=NC1C)C)C(C(=O)OC(C)C)=O)Cl | C12H13BrClNO3
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | ether | CCOCC | C4H10O
product | isopropyl 2-(4-(4-benzylpiperidin-1-yl)-5-bromo-2,6-dimethylpyridin-3-yl)-2-oxoacetate | 1.48 g, 68% | C(C1=CC=CC=C1)C1CCN(CC1)C1=C(C(=NC(=C1Br)C)C)C(C(=O)OC(C)C)=O | C24H29BrN2O3
